US07829571B2
A mixture of 2-iodo-4-(trifluoromethyl)benzenamine (11.0 g, 0.0382 mol), pyridine (40 ml), methanesulfonylchloride (5.3 g, 0.046 mol) and DMAP (0.46 g, 0.0038 mol) in a 100 ml RB flask was heated slowly to 105° C. and maintained the same temperature for over night. The reaction mixture was concentrated to remove the pyridine. The crude product obtained was purified by column chromatography using 10% ethyl acetate in pet ether as eluent to get N-(2-iodo-4-(trifluoromethyl)phenyl)methanesulfonamide (4.5 g, 32%) as white solid. 1H NMR (400 MHz, CDCl3) δ 3.08 (s, 3H), 6.88 (bs, 1H), 7.65 (d, 1H), 7.75 (d, 1H), 8.07 (s, 1H).

reactant | 2-iodo-4-(trifluoromethyl)benzenamine | 0.0382 mol, 11.0 g | IC1=C(C=CC(=C1)C(F)(F)F)N | C7H5F3IN
reactant | methanesulfonylchloride | 0.046 mol, 5.3 g | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 0.0038 mol, 0.46 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-iodo-4-(trifluoromethyl)phenyl)methanesulfonamide | 4.5 g, 32% | IC1=C(C=CC(=C1)C(F)(F)F)NS(=O)(=O)C | C8H7F3INO2S
